### PR TITLE
[Merged by Bors] - feat(Algebra/RingTheory): Define distinguished polynomial

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this PR we defined the structure `IsDistinguishedAt`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Thmoas-Guan** [comment]
Do anyone know where is the good place for these def and lemmas? It needs imports as follow:
`Mathlib.Algebra.Lie.OfAssociative`
`Mathlib.RingTheory.Polynomial.Eisenstein.Basic`
`Mathlib.RingTheory.PowerSeries.Order`
Thanks

File: Mathlib/RingTheory/WeierstrassPreparation.lean [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+
+import Mathlib.Algebra.Lie.OfAssociative
+import Mathlib.RingTheory.Polynomial.Eisenstein.Basic
+import Mathlib.RingTheory.PowerSeries.Order
+/-!
+
+# Distiguished polynomial
+
+In this section we define the structure `IsDistinguishedAt`
+and develope the most basic lemmas about it.
```
Comment (erdOne) [inline Mathlib/RingTheory/WeierstrassPreparation.lean:15]:
```suggestion
and develop the most basic lemmas about it.
```

File: Mathlib/RingTheory/WeierstrassPreparation.lean [hunk 2]
```diff
@@ -0,0 +1,53 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Nailin Guan
+-/
+
+import Mathlib.Algebra.Lie.OfAssociative
+import Mathlib.RingTheory.Polynomial.Eisenstein.Basic
+import Mathlib.RingTheory.PowerSeries.Order
+/-!
+
+# Distiguished polynomial
```
Comment (erdOne) [inline Mathlib/RingTheory/WeierstrassPreparation.lean:12]: This doesn't really match the file name?

File: Mathlib/RingTheory/WeierstrassPreparation.lean [hunk 3]
```diff
@@ -0,0 +1,53 @@
...
+open scoped Polynomial
+open PowerSeries Ideal Quotient
+
+variable {R : Type*} [CommRing R]
+
+/-- Given an ideal `I` of a commutative semiring `R`, we say that a polynomial `f : R[X]`
+is *Distinguished at `I`* if `f` is monic and `IsWeaklyEisensteinAt I`. -/
+structure Polynomial.IsDistinguishedAt (f : R[X]) (I : Ideal R) : Prop where
+  monic : f.Monic
+  else_mem : f.IsWeaklyEisensteinAt I
```
Comment (erdOne) [inline Mathlib/RingTheory/WeierstrassPreparation.lean:28]: You say "commutative semiring" here but the def seems to work for commutative rings only?

The `else_mem` field doesn't follow the naming convention as well. Maybe just `isWeaklyEisensteinAt`? Or alternatively you could extend `IsWeaklyEisensteinAt`.

File: Mathlib/RingTheory/WeierstrassPreparation.lean [hunk 4]
```diff
@@ -0,0 +1,53 @@
...
+  ext i
+  by_cases ne : i = f.natDegree
+  · simp [ne, distinguish.monic]
+  · rcases lt_or_gt_of_ne ne with lt|gt
+    · simpa [ne, eq_zero_iff_mem] using (distinguish.else_mem.mem lt)
+    · simp [ne, Polynomial.coeff_eq_zero_of_natDegree_lt gt]
+
+lemma deg_eq_order_map [Nontrivial R] {I : Ideal R} (f : PowerSeries R)
+    (h : R⟦X⟧) (g : R[X]) (distinguish : g.IsDistinguishedAt I) (nmem : ¬ (constantCoeff R) h ∈ I)
+    (eq : f = g * h) : g.degree = (f.map (Ideal.Quotient.mk I)).order := by
```
Comment (erdOne) [inline Mathlib/RingTheory/WeierstrassPreparation.lean:43]: `[Nontrivial R]` is not necessary because it is implied by `nmem`.

**Comment by erdOne** [comment]
It definitely does not need `Mathlib.Algebra.Lie.OfAssociative`. This is a common misfire by `#min_imports`. But I guess maybe `Polynomial/Eisenstein/Distinguished`?

**Comment by riccardobrasca** [comment]
Taking Andrew's comments into account LGTM, thanks!

bors d+

File: Mathlib/RingTheory/WeierstrassPreparation.lean (hunk 3 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/WeierstrassPreparation.lean:28]: I am not familiar with semiring and I don't know whether it works.
But anyway, I should extend `isWeaklyEisensteinAt`.

Comment (erdOne) [reply Mathlib/RingTheory/WeierstrassPreparation.lean:28]: In that case you should fix the docstring.

**Comment by Thmoas-Guan** [comment]
@erdOne @riccardobrasca is it good now? May I ask for a look to make sure? Thank you.

File: Mathlib/RingTheory/Polynomial/Eisenstein/Distinguished.lean [hunk 5]
```diff
@@ -0,0 +1,54 @@
...
+lemma map_eq_X_pow (f : R[X]) {I : Ideal R} (distinguish : f.IsDistinguishedAt I) :
+    f.map (Ideal.Quotient.mk I) = Polynomial.X ^ f.natDegree := by
+  ext i
+  by_cases ne : i = f.natDegree
+  · simp [ne, distinguish.monic]
+  · rcases lt_or_gt_of_ne ne with lt|gt
+    · simpa [ne, eq_zero_iff_mem] using (distinguish.mem lt)
+    · simp [ne, Polynomial.coeff_eq_zero_of_natDegree_lt gt]
+
+lemma deg_eq_order_map {I : Ideal R} (f : PowerSeries R)
```
Comment (erdOne) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Distinguished.lean:40]:
```suggestion
lemma degree_eq_order_map {I : Ideal R} (f : PowerSeries R)
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Distinguished.lean [hunk 6]
```diff
@@ -0,0 +1,54 @@
...
+-/
+
+import Mathlib.RingTheory.Polynomial.Eisenstein.Basic
+import Mathlib.RingTheory.PowerSeries.Order
+/-!
+
+# Distiguished polynomial
+
+In this file we define the structure `IsDistinguishedAt`
+and develop the most basic lemmas about it.
```
Comment (erdOne) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Distinguished.lean:14]:
```suggestion
In this file we define the predicate `Polynomial.IsDistinguishedAt`
and develop the most basic lemmas about it.
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Distinguished.lean [hunk 7]
```diff
@@ -0,0 +1,54 @@
...
+-/
+
+open scoped Polynomial
+open PowerSeries Ideal Quotient
+
+variable {R : Type*} [CommRing R]
+
+/-- Given an ideal `I` of a commutative ring `R`, we say that a polynomial `f : R[X]`
+is *Distinguished at `I`* if `f` is monic and `IsWeaklyEisensteinAt I`. -/
+structure Polynomial.IsDistinguishedAt (f : R[X]) (I : Ideal R) : Prop
```
Comment (erdOne) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Distinguished.lean:25]: Since `IsWeaklyEisensteinAt` is AFAIK not standard terminology in the literature, maybe remind the user what this means under the hood?
(e.g. "i.e. `f` is of the form `xⁿ + a₁xⁿ⁻¹ + ⋯ + aₙ` with `aᵢ ∈ I` for all `i`")

**Review by erdOne — APPROVED** [review]
Otherwise LGTM
Thanks!

**Comment by riccardobrasca** [comment]
LGTM, thanks!

bors merge
